US04067868
To a suspension of 1.0 g of benzyl 1-methyl-3-phenyl-5-chloroindole-2-carbamate in 10 ml of acetic acid, a solution of 1.0 g of chromic anhydride in 1 ml of water was added dropwise with stirring below 25° C. The resulting mixture was stirred at room temperature for 6 hours, and then 25 ml of water was added to the reaction mixture. The resulting reaction mixture was neutralized with concentrated ammonia water and extracted with ether. The extracted ether layer was washed with water and dried over Glauber's salt. The solvent was removed by distillation under reduced pressure to give 0.94 g of oily benzyl 4-(4-chloro-2-benzoylphenyl)-4-methylallophanate. After dissolving the oily material in 9 ml of ethanol and adding 3 ml of concentrated hydrochloric acid thereto, the resulting mixture was refluxed for 1 hour. After removing the solvent by distillation under reduced pressure, the obtained residue was neutralized with concentrated ammonia water. The obtained crystals were collected by filtration, washed with water and recrystallized from ethanol to give 1-methyl-4-phenyl-6-chloro-2(1H)-quinazolinone having a melting point of 220° - 221° C.

reactant | benzyl 1-methyl-3-phenyl-5-chloroindole-2-carbamate | 1.0 g | CN1C(=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C23H19ClN2O2
reactant | ammonia water | O.N
reactant | water | 1 ml | O | H2O
reactant | water | 25 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | benzyl 4-(4-chloro-2-benzoylphenyl)-4-methylallophanate | 0.94 g | ClC1=CC(=C(C=C1)N(C(NC(=O)OCC1=CC=CC=C1)=O)C)C(C1=CC=CC=C1)=O | C23H19ClN2O4
